US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-1H-pyrazol-4-yl]-amide
The titled compound is prepared as a white solid (95 mg, 58% yield) following Scheme 3 and in analogy to Example 1 using 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-1H-pyrazol-4-ylamine (100 mg, 0.34 mmol, 1.0 eq) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid (85 mg, 0.40 mmol, 1.2 eq) as starting materials.

reactant | 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-1H-pyrazol-4-ylamine | 0.34 mmol, 100 mg, 1.0 eq | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1N=CC(=C1)N | C16H16N4O2
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | 0.40 mmol, 85 mg, 1.2 eq | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-1H-pyrazol-4-yl]-amide | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1N=CC(=C1)NC(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C25H21N5O4S
